US05256645
A mixture of 100 mg (0.37 mmol) of (1S or R,2R,3S)-3-amino-4-cyclohexyl-1-(1-cyclohexen-1-yl)-1,2-butanediol and 257 mg (0.41 mmol) of N-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamoyl]-3-(2,4-dinitrophenyl)-L-histidine in 15 ml of acetonitrile is treated under argon in succession at room temperature with 83 mg (0.82 mmol) of triethylamine, 67 mg (0.41 mmol) of HOBT and 168 mg (0.41 mmol) of HBTU and the reaction mixture is thereafter stirred at room temperature for 3 hours. For the working-up, the reaction mixture is concentrated under reduced pressure to about 1/4 of the original volume, then diluted with 50 ml of ethyl acetate and washed in succession with water, saturated sodium bicarbonate solution, water and saturated sodium chloride solution. The organic phase is dried over sodium sulphate and evaporated under reduced pressure, and the residue is chromatographed on silica gel with a 98:2 mixture of methylene chloride and methanol as the eluting agent, whereby there are obtained 140 mg (0.17 mmol) of (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamido]-N-[(1S,2R,3S or R)-1-(cyclohexylmethyl)-3-(1-cyclohexen-1-yl)-2,3-dihydroxypropyl]-1-(2,4-dinitrophenyl)imidazole-4-propionamide in the form of a yellow foam, MS: 838 (M+H)+. This is dissolved in 3 ml of dimethylformamide and stirred at room temperature for 3 hours with 0.15 ml (1.7 mmol) of thiolactic acid. Thereafter, the reaction solution is evaporated in a high vacuum, the residue is dissolved in 15 ml of ethyl acetate and the reaction solution is washed in succession with saturated sodium carbonate solution, water and saturated sodium chloride solution. The yellowish coloured ethyl acetate phase is dried over sodium sulphate and evaporated under reduced pressure. For purification, the residue (120 mg) is chromatographed on silica gel with a 95:5 mixture of methylene chloride and methanol, which contains 0.1% ammonium hydroxide, as the eluting agent. After lyophilization from dioxan there are obtained 85 mg of (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-3-(1-cyclohexen-1-yl)-1-(cyclohexylmethyl)-2,3-dihydroxypropyl]imidazole-4-propionamide as a yellowish powder, MS: 671 (M+H)+.

reactant | 3-amino-4-cyclohexyl-1-(1-cyclohexen-1-yl)-1,2-butanediol | NC(C(C(O)C1=CCCCC1)O)CC1CCCCC1 | C16H29NO2
reactant | N-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamoyl]-3-(2,4-dinitrophenyl)-L-histidine | 0.41 mmol, 257 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@@H](CC1=CN=CN1C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C(=O)O)CC1=CC=CC=C1 | C26H29N5O9S
reactant | triethylamine | 0.82 mmol, 83 mg | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.41 mmol, 67 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.41 mmol, 168 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2,4-dinitrophenyl)imidazole-4-propionamide | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)CCC(=O)N | C12H11N5O5
reactant | thiolactic acid | 1.7 mmol, 0.15 ml | C(C(O)C)(=S)O | C3H6O2S
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-3-(1-cyclohexen-1-yl)-1-(cyclohexylmethyl)-2,3-dihydroxypropyl]imidazole-4-propionamide | 85 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1=CCCCC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C36H54N4O6S
